US08426411B2
NaOH (1 N aqueous, 12 mL, 12 mmol) was added to (1S,2R,4S)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate (1.11 g, 5.96 mmol). The reaction mixture was stirred at ambient temperature for about 3 days and then extracted with Et2O (3×25 mL). The Et2O extracts were discarded and the aqueous portion was cooled to about 0° C. HCl (5 N aqueous) was slowly added to bring the pH to about 2. The resulting aqueous suspension was extracted with EtOAc (3×40 mL). The combined organic layers were washed with brine (2×80 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give (1S,2R,4S)-2-ethyl-4-hydroxycyclopentanecarboxylic acid (0.943 g, 100%) as clear oil: 1H NMR (CDCl3) δ 4.36 (tdd, J=2.6, 4.9, 7.4, 1H), 2.95 (td, J=2.4, 7.3, 1H), 2.41 (dt, J=7.7, 14.1, 1H), 2.16-1.94 (m, 3H), 1.65-1.49 (m, 1H), 1.49-1.32 (m, 2H), 0.96 (q, J=7.4, 3H).

reactant | NaOH | 12 mmol, 1 N, 12 mL | [OH-].[Na+]
reactant | (1S,2R,4S)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate | 5.96 mmol, 1.11 g | C(C)[C@H]1[C@H](C[C@H](C1)O)C(=O)OCC | C10H18O3
product | (1S,2R,4S)-2-ethyl-4-hydroxycyclopentanecarboxylic acid | 0.943 g, 100% | C(C)[C@H]1[C@H](C[C@H](C1)O)C(=O)O | C8H14O3
